US04629789
A solution of 8.0 parts of crotononitrile in 20 parts by volume of tetrahydrofuran is added to a stirred mixture of 16.5 parts of α-morpholino-α(4-morpholino-3-nitrophenyl)-acetonitrile in 150 parts by volume of tetrahydrofuran and 1.5 parts of potassium hydroxide in 5 parts by volume of methanol at room temperature under an atmosphere of nitrogen. The reaction mixture is stirred for a further 6 hours, diluted with 500 parts by volume of water and extracted with 4×250 parts by volume of ethyl acetate. The combined organic extracts are dried over magnesium sulphate and concentrated under vacuum. The resulting crude product is triturated with a mixture of 50 parts by volume of ethyl acetate and hexane. The solid product is collected, washed with ethyl acetate and dried at 80° under vacuum to give 4-(4-morpholino-3-nitrophenyl)-4-(cyano)-4-(morpholino)-3-methylbutyronitrile having melting point 175°-177° C.

reactant | crotononitrile | C(\C=C\C)#N | C4H5N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | α-morpholino-α(4-morpholino-3-nitrophenyl)-acetonitrile | O1CCN(CC1)C(C#N)C1=CC(=C(C=C1)N1CCOCC1)[N+](=O)[O-] | C16H20N4O4
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-(4-morpholino-3-nitrophenyl)-4-(cyano)-4-(morpholino)-3-methylbutyronitrile | O1CCN(CC1)C1=C(C=C(C=C1)C(C(CC#N)C)(N1CCOCC1)C#N)[N+](=O)[O-] | C20H25N5O4
